US05739336
A mixture of ethyl 5-iodo-2-methoxybenzoate (4.1 g, 13.4 mmol), sodium phenoxide (1.7-1.8 g, 15 mmol), copper(I) oxide (1.1 g, 7.5 mmol) and dimethylacetamide (approximately 15 mL) was heated 4 hours with stirring at 180° C. The mixture was filtered, diluted with water and extracted with pentane/diethyl ether (7:3, 2× 100 mL). The combined extracts were washed with dilute sodium hydroxide (3×) and water (1×), dried (K2CO3), filtered and concentrated. The residue was dried (P2O5) under vacuum to give crude product (1.17 g) which was combined with crude product (2.4 g) similarly prepared from methyl 5-iodo-2-methoxybenzoate (6 g, 19.6 mmol). The combined crude product was purified by column chromatography eluting with hexane/acetone (96:4) to give ethyl 2-methoxy-5-phenoxybenzoate (2 g, 7.3 mmol), m.p. 52°-52° C.

reactant | ethyl 5-iodo-2-methoxybenzoate | 13.4 mmol, 4.1 g | IC=1C=CC(=C(C(=O)OCC)C1)OC | C10H11IO3
reactant | sodium phenoxide | 15 mmol, 1.7-1.8 g | [O-]C1=CC=CC=C1.[Na+]
reactant | methyl 5-iodo-2-methoxybenzoate | 19.6 mmol, 6 g | IC=1C=CC(=C(C(=O)OC)C1)OC | C9H9IO3
catalyst | copper(I) oxide | 7.5 mmol, 1.1 g | [Cu-]=O
solvent | dimethylacetamide | approximately 15 mL | CC(=O)N(C)C | C4H9NO
product | ethyl 2-methoxy-5-phenoxybenzoate | 7.3 mmol, 2 g | COC1=C(C(=O)OCC)C=C(C=C1)OC1=CC=CC=C1 | C16H16O4
